US09126993B2
N-(1-aza-bicyclo[2.2.2]oct-3-yl)-4-(4-methoxy-phenyl)-butyramide
Using general procedure I, 1-aza-bicyclo[2.2.2]oct-3-ylamine (200 mg, 1.00 mmol) and 4-(4-methoxy-phenyl)-butyric acid gave the title compound as a white solid (85 mg, 28%). 1H NMR (400 MHz, CD3OD) δ 7.08 (d, J=8.4 Hz, 2H), 6.81 (d, J=8.4 Hz, 2H), 4.18 (br s, 1H), 3.74 (s, 3H), 3.68 (d, J=11.6 Hz, 1H), 3.24-3.33 (m, 4H), 2.98-3.03 (m, 1H), 2.57 (t, J=7.6 Hz, 2H), 2.24 (t, J=7.6 Hz, 2H), 2.03-2.16 (m, 2H), 2.02 (br s, 2H), 1.85-1.91 (m, 3H) ppm. 13C NMR (400 MHz, CD3OD) δ 175.2, 158.3, 133.6, 129.2, 113.6, 54.5, 52.6, 47.2, 46.4, 44.5, 34.9, 34.2, 27.5, 24.4, 21.5, 17.1 ppm. Purity:

reactant | 1-aza-bicyclo[2.2.2]oct-3-ylamine | 1.00 mmol, 200 mg | N12CC(C(CC1)CC2)N | C7H14N2
reactant | 4-(4-methoxy-phenyl)-butyric acid | COC1=CC=C(C=C1)CCCC(=O)O | C11H14O3
product | N-(1-aza-bicyclo[2.2.2]oct-3-yl)-4-(4-methoxy-phenyl)-butyramide | 85 mg, 28% | N12CC(C(CC1)CC2)NC(CCCC2=CC=C(C=C2)OC)=O | C18H26N2O2
